US07635715B2
Step C: Preparation of 2-(2-chloro-6-iodophenyl)acetic acid
A mixture of 2-(2-chloro-6-iodophenyl)acetonitrile (10 g, 36 mmol) in 20 mL dioxane was treated with 25 mL 9M H2SO4. The mixture was stirred at 115° C. for 2 hours. The mixture was transferred into a sealed tube and heated to 150° C. and stirred for 2 hours. The mixture was then cooled to room temperature and diluted with 100 mL water. The mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturated NaCl (20 mL), dried over sodium sulfate, and concentrated to give crude product 10.3 g as pale yellow solid. MS m/e: (M+H)+ 297.

reactant | 2-(2-chloro-6-iodophenyl)acetonitrile | 36 mmol, 10 g | ClC1=C(C(=CC=C1)I)CC#N | C8H5ClIN
reactant | H2SO4 | 9M, 25 mL | OS(=O)(=O)O | H2O4S
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-(2-chloro-6-iodophenyl)acetic acid | 10.3 g | ClC1=C(C(=CC=C1)I)CC(=O)O | C8H6ClIO2
